US06573270B1
N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide
To a solution of 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate (Preparation 33) (500 mg) in anhydrous pyridine (5 ml) at room temperature and under an atmosphere of nitrogen was added 4-dimethylaminopyridine (191 mg) and 5-isopropyl-2-pyridinesulfonyl chloride (1.72 g). After being left to reflux overnight, the reaction mixture was poured onto saturated citric acid solution (50 ml) and extracted with ethyl acetate (2×50 ml). The organic fractions were washed with brine (50 ml), followed by drying over magnesium sulfate, filtering and concentration under reduced pressure. To a solution of the residue in ethanol (50 ml) was added sodium hydroxide solution (5 ml of 2M). The mixture was stirred overnight before being concentrated to approximately 5 ml under reduced pressure and partitioned between ethyl acetate (2×100 ml) and saturated citric acid solution (100 ml). Washing of the organic fractions with brine (100 ml), drying over magnesium sulfate, filtering and concentration under reduced pressure afforded a brown residue. Purification by column chromatography on silica gel (5 g), eluting in an isocratic fashion with ethyl acetate:hexane (2:1) afforded the title compound as a gum (18 mg).

reactant | 2-{[5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate | 500 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N)C | C15H17N3O5
reactant | 5-isopropyl-2-pyridinesulfonyl chloride | 1.72 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)Cl | C8H10ClNO2S
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 191 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide | 18 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C)OCCO | C21H24N4O6S
